US04276305
3.28 g of magnesium are treated with an iodine crystal and covered with absolute diethyl ether. The reaction is started by the addition of 2 g of allyl bromide. A mixture of 19.78 g of allyl bromide and 15.62 g of 2-naphthaldehyde in absolute diethyl ether is then added dropwise to maintain the mixture at reflux. After the addition is completed, the mixture is left to stir at room temperature overnight. The mixture is poured into an ice - 2 N hydrochloric acid solution and extracted three times with ether. The ether extracts are washed with water and saturated sodium chloride solution, dried over sodium sulfate and evaporated to yield 1-(2-naphthyl)-3-buten-1-ol which can be used without further purification for the reaction with cyclopropane carboxylic acid chloride in the process of Example 2. The resulting product is cyclopropane carboxylic acid 1-(2-naphthyl)-3-butenyl ester, m.p. 35°-39° C.

reactant | magnesium | 3.28 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | allyl bromide | 2 g | C(C=C)Br | C3H5Br
reactant | allyl bromide | 19.78 g | C(C=C)Br | C3H5Br
reactant | 2-naphthaldehyde | 15.62 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2-naphthyl)-3-buten-1-ol | C1=C(C=CC2=CC=CC=C12)C(CC=C)O | C14H14O
